US06974873B2
Preparation of 7-(carboxypentyl)-2,3,3-trimethyl-3H-pyrrolo[2,3-b]pyridinium bromide (Compound 59)
A mixture of 0.54 g of 2,3,3-trimethyl-3H-pyrrolo[2,3-b]pyridine and 1.32 g of 6-bromohexanoic acid is heated at 120° C. for one hour. Ethyl acetate (10 mL) is added, and the reaction mixture is heated at reflux for 15 minutes, then cooled to room temperature. The supernatant liquid is decanted to yield the product.

reactant | 2,3,3-trimethyl-3H-pyrrolo[2,3-b]pyridine | 0.54 g | CC=1C(C=2C(=NC=CC2)N1)(C)C | C10H12N2
reactant | 6-bromohexanoic acid | 1.32 g | BrCCCCCC(=O)O | C6H11BrO2
solvent | Ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 7-(carboxypentyl)-2,3,3-trimethyl-3H-pyrrolo[2,3-b]pyridinium bromide | [Br-].C(=O)(O)CCCCCN1C=2C(=CC=C1)C(C([NH+]2)C)(C)C | InChI=1S/C16H24N2O2.BrH/c1-12-16(2,3)13-8-7-11-18(15(13)17-12)10-6-4-5-9-14(19)20;/h7-8,11-12H,4-6,9-10H2,1-3H3,(H,19,20);1H
